US05350751
3-(5-Methylindol-1-yl)propionitrile (see Example 9)
13 g (0.1 mol) of 5-methylindole are added to 4 ml of trimethylbenzylammonium hydroxide and 10 ml of acrylonitrile in 100 ml of dioxane while stirring. The mixture is then heated at 80° C. for 2 h and subsequently left to stand at room temperature for 3 days. Very dilute acetic acid is then added in order to neutralize the base. Extraction with EA (3×30 ml) is then carried out. The combined organic phases are dried with Na2SO4 and concentrated in vacuo. The residue was chromatographed on SiO2 with DIP as eluent. Rf [DIP]=0.3.

reactant | 5-methylindole | 0.1 mol, 13 g | CC=1C=C2C=CNC2=CC1 | C9H9N
reactant | trimethylbenzylammonium hydroxide | 4 ml | [OH-].C[N+](CC1=CC=CC=C1)(C)C
reactant | acrylonitrile | 10 ml | C(C=C)#N | C3H3N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-(5-Methylindol-1-yl)propionitrile | CC=1C=C2C=CN(C2=CC1)CCC#N | C12H12N2
